US05580896
(±)-9H-Fluoren-9-ylmethyl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)amino]ethyl ]carbamate
To a solution of N-[(9H-fluoren-9-ylmethyloxy)carbonyl]-α-methyl-DL-tryptophan (8.80 g, 20 mmol) in dry ethyl acetate (350 mL) was added pentafluorophenol (3.68 g, 20 mmol) and stirred for 10 minutes. The reaction mixture was cooled to 0° C. and a solution of dicyclohexylcarbodiimide (20 mmol) in ethyl acetate (25 mL) was added dropwise. This solution was stirred for one hour at 0° C. then at room temperature for four hours before leaving it at 4° C. overnight. The mixture was filtered and the precipitate washed with cold ethyl acetate (30 mL) and a solution of 2-phenethylamine (2.66 g, 22 mmol) in ethyl acetate (30 mL) was added dropwise to the combined filtrates. The mixture was left to stir for 48 hours at room temperature. The reaction mixture was filtered and the residue washed with cold ethyl acetate (2×30 mL) to give the title compound (3.73 g, 75%). The filtrates were combined and the solvent removed in vacuo and taken up again in ethyl acetate (5 mL) to give a second crop of 1.67 g (15%), a total of 90% yield as a white solid, mp 179°-181° C. (EtOAc); IR (film) 1708, 1652 cm-1 ; NMR (DMSO d6) δ1.30 (3H, s), 2.64 (2H, t, J 7.2 Hz), 3.2-3.3 (4H, m), 4.19 (1H, t, J 6.7 Hz), 4.25-4.40 (2H, m), 6.9-7.9 (20H, m), 10.8 (1H, s).

reactant | N-[(9H-fluoren-9-ylmethyloxy)carbonyl]-α-methyl-DL-tryptophan | 20 mmol, 8.80 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(CC1=CNC2=CC=CC=C12)(C(=O)O)C | C27H24N2O4
reactant | pentafluorophenol | 20 mmol, 3.68 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 20 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-phenethylamine | 22 mmol, 2.66 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (±)-9H-Fluoren-9-ylmethyl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)amino]ethyl ]carbamate | 3.73 g, 75% | N1C=C(C2=CC=CC=C12)CC(C(NCCC1=CC=CC=C1)=O)(C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C35H33N3O3
